US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((1-(1-methylpyrrolidin-3-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone dihydrochloride
To a suspension of 1-(6-bromo-4-((1-(1-methylpyrrolidin-3-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone (80 mg, 0.19 mmol), 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (80 mg, 0.28 mmol) and Pd(dppf)Cl2 (11 mg, 0.015 mmol) in dioxane (4 mL) was added Cs2CO3 (1.0 M in H2O, 0.4 mL, 0.4 mmol). N2 gas was bubbled through the reaction mixture and the mixture was then heated at 80° C. for 2 h. The solution was allowed to cool to room temperature, diluted with a saturated NaHCO3 solution and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, 0-20% methanol/dichloromethane) afforded a residue that was further purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The resultant residue was dissolved in methanol (8 mL) and HCl (6 M in water, 1.0 mL, 6 mmol) was added. The resultant solution was concentrated to give the desired product (66.2 mg, 60%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.27 (br s, 1H), 8.26-8.17 (m, 2H), 8.11 (s, 1H), 8.02 (d, J=8.8 Hz, 1H), 7.79 (s, 1H), 7.37 (s, 2H), 5.41 (br s, 1H), 4.25-3.93 (m, 2H), 3.84-3.32 (m, 2H), 3.21-3.03 (m, 3H), 2.82-2.78 (br s, 1H), 2.80 (3, 3H), 2.39 (br s, 1H). ESI MS m/z 496 [C25H23Cl2N5O2+H]+; HPLC>99% (AUC), tR=9.56 min.

reactant | 1-(6-bromo-4-((1-(1-methylpyrrolidin-3-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone | 0.19 mmol, 80 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NN(C1)C1CN(CC1)C | C19H20BrN5O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.28 mmol, 80 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
reactant | Cs2CO3 | 0.4 mmol, 1.0 M, 0.4 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 6 mmol, 6 M, 1.0 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.015 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((1-(1-methylpyrrolidin-3-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone dihydrochloride | 66.2 mg, 60% | Cl.Cl.ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NN(C1)C1CN(CC1)C | InChI=1S/C25H23Cl2N5O2.2ClH/c1-14(33)20-11-28-23-4-3-15(16-8-21(26)25(34)22(27)9-16)7-19(23)24(20)30-17-10-29-32(12-17)18-5-6-31(2)13-18;;/h3-4,7-12,18,34H,5-6,13H2,1-2H3,(H,28,30);2*1H
